US08669361B2
(R)-5-amino-N-(5-(4-aminoazepan-1-yl)-1-methyl-1H-pyrazol-4-yl)-2-(4-cyclopropyl-2-fluorophenyl)thiazole-4-carboxamide 222
Following the procedures from Example 210 and shown in FIG. 3, using ((R)-1-{4-[(2-bromo-5-tert-butoxycarbonylamino-thiazole-4-carbonyl)-amino]-2-methyl-2H-pyrazol-3-yl}-perhydro-azepin-4-yl)-carbamic acid benzyl ester and 2-(4-cyclopropyl-2-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane as starting materials, 222 was obtained in 37.8% yield over two steps: 1H NMR (400 MHz, DMSO) δ 8.86 (s, 1H), 8.10 (t, J=8.2 Hz, 1H), 7.53 (s, 1H), 7.35 (s, 2H), 7.06 (dd, J=19.7, 10.7 Hz, 2H), 3.65 (s, 3H), 3.21-2.99 (m, 5H), 2.05-1.95 (m, 1H), 1.90-1.73 (m, 4H), 1.65-1.47 (m, 3H), 1.06-0.99 (m, 2H), 0.81-0.75 (m, 2H); MS (ESI) m/z: 470.2 [M+H]+

reactant | ((R)-1-{4-[(2-bromo-5-tert-butoxycarbonylamino-thiazole-4-carbonyl)-amino]-2-methyl-2H-pyrazol-3-yl}-perhydro-azepin-4-yl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@H]1CCN(CCC1)C=1N(N=CC1NC(=O)C=1N=C(SC1NC(=O)OC(C)(C)C)Br)C)=O | C27H34BrN7O5S
reactant | 2-(4-cyclopropyl-2-fluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C1(CC1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C15H20BFO2
product | (R)-5-amino-N-(5-(4-aminoazepan-1-yl)-1-methyl-1H-pyrazol-4-yl)-2-(4-cyclopropyl-2-fluorophenyl)thiazole-4-carboxamide | 37.8% yield | NC1=C(N=C(S1)C1=C(C=C(C=C1)C1CC1)F)C(=O)NC=1C=NN(C1N1CC[C@@H](CCC1)N)C | C23H28FN7OS
